US09371333B2
2-Amino-4-(4-allyloxy-3-bromo-5-methoxy-phenyl)-4H-benzo[h]chromene-3-carbonitrile (3)
1-Naphthol (170 mg, 1.2 mmol), 4-allyloxy-3-bromo-5-methoxy-benzaldehyde (271 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) were taken in 7 ml ethanol at room temperature, charged with piperidine (50 μl) and then stirred at 80° C. under LC-MS control till the reaction was complete. The reaction mixture was then cooled down to room temperature, diluted with 10 ml water, stirred for 2 h at room temperature, solids were collected by filtration, washed well with 1:1 mixture of ethanol/water and dried under high vacuum yielding 370 mg (0.8 mmol, 80%) of the title compound.

reactant | 1-Naphthol | 1.2 mmol, 170 mg | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 4-allyloxy-3-bromo-5-methoxy-benzaldehyde | 1 mmol, 271 mg | C(C=C)OC1=C(C=C(C=O)C=C1OC)Br | C11H11BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 50 μl | N1CCCCC1 | C5H11N
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-Amino-4-(4-allyloxy-3-bromo-5-methoxy-phenyl)-4H-benzo[h]chromene-3-carbonitrile | 0.8 mmol, 370 mg, 80% | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OCC=C)Br)C=CC=C3 | C24H19BrN2O3
